US07262185B2
7-[4-(2-butoxyethoxy)phenyl]-N-[3-chloro-4-[hydroxy(pyridin-2-yl)methyl]phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (0.37 g) was dissolved in dichloromethane (25 ml), and to the solution was added 3-chloroperbenzoic acid (0.2 g) under ice-cooling and the mixture was stirred overnight at room temperature. An aqueous solution of sodium thiosulfate was added to the mixture, the mixture was concentrated, and extracted with ethyl acetate. The organic layer was washed with sodium bicarbonate solution, water and saturated brine, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off. The residue was purified by silica gel column chromatography (elution solvent: ethyl acetate/hexane), to give 7-[4-(2-butoxyethoxy)phenyl]-N-[3-chloro-4-[hydroxy(1-oxidopyridin-2-yl)methyl]phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide (0.24 g) as pale red oil.

reactant | 7-[4-(2-butoxyethoxy)phenyl]-N-[3-chloro-4-[hydroxy(pyridin-2-yl)methyl]phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 0.37 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)NC2=CC(=C(C=C2)C(C2=NC=CC=C2)O)Cl)C1 | C37H35ClF3N3O5
reactant | 3-chloroperbenzoic acid | 0.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 7-[4-(2-butoxyethoxy)phenyl]-N-[3-chloro-4-[hydroxy(1-oxidopyridin-2-yl)methyl]phenyl]-1-trifluoroacetyl-2,3-dihydro-1H-1-benzazepine-4-carboxamide | 0.24 g | C(CCC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2C(C(F)(F)F)=O)C(=O)NC2=CC(=C(C=C2)C(C2=[N+](C=CC=C2)[O-])O)Cl)C1 | C37H35ClF3N3O6
